US07022699B2
Step A. 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester
4-Bromo-3-methyl benzoic acid methyl ester (5.00 g, 21.8 mmol) and bis(pinacolato)diboron (6.09 g, 24.0 mmol) were reacted in the manner of Example 7, Step A. Recrystallization from pentane (−20° C.) afforded the title compound (5.59 g), m.p. 53–54° C.

reactant | 4-Bromo-3-methyl benzoic acid methyl ester | 21.8 mmol, 5.00 g | COC(C1=CC(=C(C=C1)Br)C)=O | C9H9BrO2
reactant | bis(pinacolato)diboron | 24.0 mmol, 6.09 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid methyl ester | 5.59 g | COC(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C15H21BO4
